US03970662
"Simple aldehydes and ketones without activating groups require mildly forcing conditions and produce the fully aromatic pyridines; accordingly, acetophenone, benzaldehyde, and ammonia in refluxing acetic acid gave a 68% yield of 2,4,6-triphenylpyridine and a 25% yield of β-phenylpropionophenone."

reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonia | N | H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4,6-triphenylpyridine | 68% yield | C1(=CC=CC=C1)C1=NC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H17N
